US03948913
A mixture of 20.0 grams of 4-cyano-5-ethoxymethyleneamino-1-methyl-3-(5-nitro-2-furyl)-pyrazole, 200 milliliters of ethanol and 100 milliliters of concentrated aqueous ammonia solution (S.G., 0.88) was heated at reflux for 1 hour and cooled. The crystalline solid precipitated was collected, washed with water and dried. Recrystallisation from dimethylformamide gave 4-amino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine having decomposition point 305°C.

reactant | 4-cyano-5-ethoxymethyleneamino-1-methyl-3-(5-nitro-2-furyl)-pyrazole | 20.0 grams | C(#N)C=1C(=NN(C1N=COCC)C)C=1OC(=CC1)[N+](=O)[O-] | C12H11N5O4
reactant | ammonia | 100 milliliters | N | H3N
solvent | ethanol | 200 milliliters | C(C)O | C2H6O
product | 4-amino-1-methyl-3-(5-nitro-2-furyl)-1H-pyrazolo[3,4-d]pyrimidine | NC1=C2C(=NC=N1)N(N=C2C=2OC(=CC2)[N+](=O)[O-])C | C10H8N6O3
